US04677219
To 38 g of 2,6-dibromotoluene (0.152 mol) was added dropwise with stirring, over a period of thirty minutes, 76 ml of 70% nitric acid. An exothermic reaction was observed. The resulting mixture was stirred for an additional sixty minutes, after which time the mixture was poured into 1500 ml of ice water. The solids which separated were collected by filtration and dried to yield 44.62 g of 2,6-dibromo-3-nitrotoluene. Recrystallization of the reaction product from ethyl alcohol-water yielded material melting at 47°-48° C.

reactant | 2,6-dibromotoluene | 0.152 mol, 38 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | nitric acid | 76 ml | [N+](=O)(O)[O-] | HNO3
product | 2,6-dibromo-3-nitrotoluene | 44.62 g | BrC1=C(C(=CC=C1[N+](=O)[O-])Br)C | C7H5Br2NO2
